US05324726
(RS)-N-(2,3-Dihydro-1-(2-hydroxyethyl)-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-1H-indole-2-carboxamide
3-(RS)-Amino-1,3-dihydro-1-(2-hydroxyethyl)-5-phenyl-2H-1,4-benzodiazepin-2-one (69.0 mg, 0.234 mmole), indole-2-carbonyl chloride (43.1 mg, 0.240 mmole) and triethylamine (33.3 μl, 0.240 mmole) were combined in CH2Cl2 (3 ml). The reaction was stirred for 10 minutes at room temperature then chromatographed on silica gel (14% acetone in CH2Cl2). The product fractions were combined and evaporated to dryness in vacuo. The residue was triturated with Et2O to yield the title compound: (m.p. 160°-171° C.).

reactant | 3-(RS)-Amino-1,3-dihydro-1-(2-hydroxyethyl)-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.234 mmole, 69.0 mg | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CCO)=O | C17H17N3O2
reactant | indole-2-carbonyl chloride | 0.240 mmole, 43.1 mg | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | triethylamine | 0.240 mmole, 33.3 μl | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | (RS)-N-(2,3-Dihydro-1-(2-hydroxyethyl)-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-1H-indole-2-carboxamide | OCCN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C26H22N4O3
